US05726182
Step 275b 4-t-butoxy-2,3,6-trifluoro-5-methoxypyridine
To a solution of 237 mg (1.07 mmol) of 4-t-butoxy-2,3,6-trifluoro-5-hydroxypyridine, from step 275a above, in 3 mL of anhydrous THF was added 335 mg (1.277 mmol) of triphenyl phosphine and 0.060 mL (1.48 mmol) of methanol. To this solution was added 0.200 mL (1.270 mmol) of DEAD dropwise at room temperature. The reaction was complete in 10 min, so the solvents were removed under vacuum and the residue was purified by flash chromatography on silica gel, eluting with 1:16 ethyl acetate:hexane to give 215.6 mg of the title product as a colorless liquid after removal of the solvent.

reactant | 4-t-butoxy-2,3,6-trifluoro-5-hydroxypyridine | 1.07 mmol, 237 mg | C(C)(C)(C)OC1=C(C(=NC(=C1O)F)F)F | C9H10F3NO2
reactant | triphenyl phosphine | 1.277 mmol, 335 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 1.48 mmol, 0.060 mL | CO | CH4O
reactant | DEAD | 1.270 mmol, 0.200 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-t-butoxy-2,3,6-trifluoro-5-methoxypyridine | 215.6 mg | C(C)(C)(C)OC1=C(C(=NC(=C1OC)F)F)F | C10H12F3NO2
